US04748186
Carbon disulfide (5.78 grams, 0.076 mole) was added to a stirred solution of 2-amino-5-trifluoromethyl-1,3,4-thiadiazole (12.0 grams, 0.071 mole) in dimethyl sulfoxide (36 ml) under a nitrogen atmosphere. The reaction mixture was stirred for three hours at ambient temperature, then cooled to 0° C. at which time 4-bromo-1,1,2-trifluoro-1-butene (16.8 grams, 0.088 mole) was added dropwise. The reaction mixture was stirred at ambient temperature overnight. Crystals that had formed were collected by filtration, washed successively with petroleum ether and hexane and then dried, yielding 8.39 grams of (3,4,4-trifluoro-3-butenyl) N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-dithiocarbamate as a yellow powder. The NMR spectrum was consistent with the proposed structure.

reactant | Carbon disulfide | 0.076 mole, 5.78 grams | C(=S)=S | CS2
reactant | 2-amino-5-trifluoromethyl-1,3,4-thiadiazole | 0.071 mole, 12.0 grams | NC=1SC(=NN1)C(F)(F)F | C3H2F3N3S
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.088 mole, 16.8 grams | BrCCC(=C(F)F)F | C4H4BrF3
solvent | dimethyl sulfoxide | 36 ml | CS(=O)C | C2H6OS
product | (3,4,4-trifluoro-3-butenyl) N-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)-dithiocarbamate | 8.39 grams | FC(C1=NN=C(S1)NC(SCCC(=C(F)F)F)=S)(F)F | C8H5F6N3S3
